US06919349B2
To a solution of 288 mg (0.74 mmol) of 2-amino-3-((3-methyl-4-oxo-1-phenyl-1,3,8-triazaspiro[4.5]decane-8-carbonyl)amino)propionic acid methyl ester in 4 ml of dichloromethane, 0.21 ml (1.48 mmol) of triethylamine and 0.1 ml (0.89 mmol) of benzyloxycarbonyl chloride were added, and the resulting mixture was stirred at room temperature for one day. To the reaction mixture, saturated aqueous sodium hydrogen carbonate solution was added, and the resulting mixture was extracted with chloroform. Organic phases were combined, washed with 10% aqueous citric acid solution and with saturated saline, dried over anhydrous sodium sulfate, and concentrated. The residue was purified by silica gel column chromatography (chloroform:methanol=60:1) to obtain 284 mg of 2-benzyloxycarbonylamino-3-((3-methyl-4-oxo-1-phenyl-1,3,8,-triazaspiro[4.5]decane-8-carbonyl)amino)propionic acid methyl ester (yield: 73%)

reactant | 2-amino-3-((3-methyl-4-oxo-1-phenyl-1,3,8-triazaspiro[4.5]decane-8-carbonyl)amino)propionic acid methyl ester | 0.74 mmol, 288 mg | COC(C(CNC(=O)N1CCC2(C(N(CN2C2=CC=CC=C2)C)=O)CC1)N)=O | C19H27N5O4
reactant | triethylamine | 1.48 mmol, 0.21 ml | C(C)N(CC)CC | C6H15N
reactant | benzyloxycarbonyl chloride | 0.89 mmol, 0.1 ml | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 2-benzyloxycarbonylamino-3-((3-methyl-4-oxo-1-phenyl-1,3,8,-triazaspiro[4.5]decane-8-carbonyl)amino)propionic acid methyl ester | 284 mg, yield: 73% | COC(C(CNC(=O)N1CCC2(C(N(CN2C2=CC=CC=C2)C)=O)CC1)NC(=O)OCC1=CC=CC=C1)=O | C27H33N5O6
